US07049270B2
Preparation of Glyphosate Potassium Salt
To a glass container of approximately 4 liter capacity was added 1264.1 grams of glyphosate acid with an assay of 95.7%. The container was placed in an ice/water bath to provide cooling. The container was equipped with an overhead stirrer with a propeller blade approximately one half the diameter of the container. A commercial 45% potassium hydroxide solution (VWR Scientific Products) was added. The addition rate was controlled to avoid obvious boiling of the resulting solution. The stirrer height was adjusted as the volume of the liquid changed to insure good mixing. A total of 966.2 grams of potassium hydroxide solution were added. The concentration was adjusted by the addition of 195.3 grams of deionized water. Stirring was continued for approximately 1 hour. The final yield was 2418.4 grams which represents a weight loss of 7.2 grams. The calculated assay was 50.0% glyphosate acid or 61% of potassium glyphosate and the calculated neutralization was 108%. The pH of a 10% dilution in deionized water was 4.76. The density of the resulting solution at 20° C. was approximately 1.4661 grams/milliliter and the volume of 1000 grams at 20° C. was therefor approximately 682 ml. This corresponds to a weight/volume concentration of about 730 grams/liter.

reactant | glyphosate | 1264.1 grams | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium hydroxide | 966.2 grams | [OH-].[K+]
product | Glyphosate Potassium | C(C(=O)O)NCP(=O)(O)[O-].[K+] | InChI=1S/C3H8NO5P.K/c5-3(6)1-4-2-10(7,8)9;/h4H,1-2H2,(H,5,6)(H2,7,8,9);/q;+1/p-1
